US07399759B2
tert-butyl 3-(2-pyridyl)propanoate
tert-Butyl (E)-3-(2-pyridyl)-2-propenoate (1.1 g, 5.4 mmol) was dissolved in ethanol (12 ml), and a solution of ammonium formate (2.0 g, 32.0 mmol) in water (3 ml) was added thereto. The reaction mixture was refluxed for 1.5 hrs, combined with ethyl acetate and water and filtered. The filtrate was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give the titled compound (1.0 g, 94%).

reactant | tert-Butyl (E)-3-(2-pyridyl)-2-propenoate | 5.4 mmol, 1.1 g | N1=C(C=CC=C1)/C=C/C(=O)OC(C)(C)C | C12H15NO2
reactant | ammonium formate | 32.0 mmol, 2.0 g | C(=O)[O-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 12 ml | C(C)O | C2H6O
solvent | water | 3 ml | O | H2O
product | tert-butyl 3-(2-pyridyl)propanoate | 1.0 g, 94% | N1=C(C=CC=C1)CCC(=O)OC(C)(C)C | C12H17NO2
